US07786104B2
3.2 N-[6-(Azetidin-1-yl)pyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide (Compound no. 4)
4.2 ml (4.2 mmol) of a 1M solution of lithium bistrimethylsilylamide in tetrahydrofuran are added to a mixture, stirred to 0° C. under an argon atmosphere, of 0.7 g (1.76 mmol) of N-[6-chloropyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide, prepared in step 3.1, of 0.123 g (2.11 mmol) of azetidine, of 8 mg (0.04 mmol) of palladium diacetate and of 19.5 mg (0.04 mmol) of (R)-(−)-1-[(S)-2-(dicyclohexylphosphino)ferrocenyl]ethyldi-tert-butylphosphine in 1.8 ml of dry and degassed dimethoxyethane. The reactor is closed and then heated at 100° C. for 16 hours. The reaction mixture is then poured into 50 ml of water. 5 ml of a molar solution of hydrochloric acid and then 50 ml of a saturated sodium hydrogencarbonate solution are added slowly. The mixture is extracted twice with 50 ml of ethyl acetate. The organic phases are combined and then washed twice with 50 ml of a saturated sodium hydrogen carbonate solution, dried over magnesium sulfate and then concentrated under reduced pressure. The product obtained is purified by silica column chromatography, elution being carried out with a mixture of dichloromethane and acetone. The resulting solid is then triturated in 20 ml of hot isopropanol, recovered by filtration, and then recrystallized from a mixture of ethanol and methanol. 0.31 g of a solid is recovered by filtration, and dried under reduced pressure.

reactant | lithium bistrimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-[6-chloropyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | 1.76 mmol, 0.7 g | ClC1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)F | C21H14ClF2N3O
reactant | azetidine | 2.11 mmol, 0.123 g | N1CCC1 | C3H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium diacetate | 0.04 mmol, 8 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | N-[6-(Azetidin-1-yl)pyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | N1(CCC1)C1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)F | C24H20F2N4O
